US05840917
4-Methoxy-2-thiophenecarboxylic Acid
3-Methoxythiophene (4.0 ml) was dissolved in tetrahydrofuran (50 ml), and the mixture was cooled to -78° C. n-Butyllithium (1.6M in hexane, 19.5 ml) was slowly added dropwise, and the mixture was stirred at the same temperature for 1 hour. The mixture was poured into a mixture of dry ice and diethyl ether, and warmed to room temperature with stirring. The solvent was distilled off, and the residue was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a mixture of 3-methoxy-2-thiophenecarboxylic acid and 4-methoxy-2-thiophenecarboxylic acid (6.0 g). This mixture was dissolved in N,N-dimethylformamide (50 ml), and iodothane (3.0 ml) and potassium carbonate (5.25 g) were added. The mixture was stirred at room temperature for 15 hours, poured into water and extracted with diethyl ether. The extract was washed with 5% aqueous potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 4-methoxy-2-thiophenecarboxylic acid ethyl ester (2.69 g) and 3-methoxy-2-thiophenecarboxylic acid ethyl ester (3.98 g). 4-Methoxy-2-thiophenecarboxylic acid ethyl ester (2.69 g) was dissolved in a mixture of ethanol (25 ml) and tetrahydrofuran (25 ml), and 1N aqueous sodium hydroxide (22 ml) was added. The mixture was stirred at room temperature for 3 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-methoxy-2-thiophenecarboxylaic acid (2.11 g) as crystals.

reactant | 4-Methoxy-2-thiophenecarboxylic acid ethyl ester | 2.69 g | C(C)OC(=O)C=1SC=C(C1)OC | C8H10O3S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 22 ml | [OH-].[Na+]
product | 4-Methoxy-2-thiophenecarboxylic Acid | COC=1C=C(SC1)C(=O)O | C6H6O3S
